US07863450B2
To a solution of 4-(3-oxa-1-azaspiro[4.5]dec-1-en-2-yl)phenol ax8 (0.5 g, 2.16 mmol, 1 eq) in acetone (30 ml) is added 1-bromo-3-chloro-2-methylpropane (0.25 ml, 2.16 mmol, 1 eq) and potassium carbonate (0.6 g, 4.32 mmol, 2 eq). The mixture is stirred at reflux for 13 days. The mixture is concentrated, taken up in dichloromethane and washed twice with a saturated aqueous solution of ammonium chloride. The organic layer is dried over magnesium sulfate and the solvent is removed under reduced pressure to afford 0.7 g of 2-[4-(3-chloro-2-methylpropoxy)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-ene ax64 as a colorless oil. This crude product is used in the next step without further purification.

reactant | 4-(3-oxa-1-azaspiro[4.5]dec-1-en-2-yl)phenol | N1=C(OCC12CCCCC2)C2=CC=C(C=C2)O | C14H17NO2
reactant | 1-bromo-3-chloro-2-methylpropane | 2.16 mmol, 0.25 ml, 1 eq | BrCC(CCl)C | C4H8BrCl
reactant | potassium carbonate | 4.32 mmol, 0.6 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-[4-(3-chloro-2-methylpropoxy)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-ene | 0.7 g, Yield: 100% | ClCC(COC1=CC=C(C=C1)C1=NC2(CO1)CCCCC2)C | C18H24ClNO2
